US08486950B2
2,6-dichloro-N-(2-(6-isopropyl-2-(4-(methylsulfonyl)piperazin-1-yl)pyrimidin-4-ylamino)pyridin-4-yl)benzamide
To a microwave tube with a solution of 2,6-dichloro-N-(2-(2-chloro-6-isopropylpyrimidin-4-ylamino)pyridin-4-yl)benzamide (0.050 g, 0.11 mmol) in ethanol (2 mL) was added diisopropylethylamine (1.5 mL) and 1-(methylsulfonyl)piperazine (0.18 g, 1.1 mmol). The resulting mixture was heated to 140° C. under microwave irradiation for 2 hours. The mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified by prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to give the desired product (30 mg, 46% yield). 1H NMR ((500 MHz, DMSO-d6): δ 11.05 (s, 1H), 9.77 (s, 1H), 8.77 (s, 1H), 8.16 (d, J=5.5 Hz, 1H), 7.63 (s, 1H), 7.61 (s, 1H), 7.54 (m, 1H), 6.87 (m, 1H), 6.48 (s, 1H), 3.95-3.91 (m, 4H), 3.17-3.14 (m, 4H), 2.85 (s, 3H), 2.67 (m, 1H), 1.17 (d, J=7.0 Hz, 6H). LCMS (ESI) m/z: 564.0 [M+H+].

reactant | 2,6-dichloro-N-(2-(2-chloro-6-isopropylpyrimidin-4-ylamino)pyridin-4-yl)benzamide | 0.11 mmol, 0.050 g | ClC1=C(C(=O)NC2=CC(=NC=C2)NC2=NC(=NC(=C2)C(C)C)Cl)C(=CC=C1)Cl | C19H16Cl3N5O
reactant | diisopropylethylamine | 1.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(methylsulfonyl)piperazine | 1.1 mmol, 0.18 g | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2,6-dichloro-N-(2-(6-isopropyl-2-(4-(methylsulfonyl)piperazin-1-yl)pyrimidin-4-ylamino)pyridin-4-yl)benzamide | 30 mg, 46% yield | ClC1=C(C(=O)NC2=CC(=NC=C2)NC2=NC(=NC(=C2)C(C)C)N2CCN(CC2)S(=O)(=O)C)C(=CC=C1)Cl | C24H27Cl2N7O3S
